US09388180B2
3.4 N-(4-bromo-2-methylthiazol-5-yl)acetamide
To a solution of N-(2-methylthiazol-5-yl)acetamide (0.4 g, 2.6 mmol) in CHCl3 (30 mL) was added Br2 (0.15 mL, 2.8 mmol), then the solution was stirred at room temperature for 12 h to give a brown solution. The reaction mixture was diluted with saturated NaHSO3 solution. The aqueous layer was extracted with DCM (3×30 mL). The combined organic layers were dried with Na2SO4, filtered and concentrated to afford a yellow solid. The resulting mixture was deposited onto silica gel and loaded onto a silica gel column and eluted with PE/EA(1:1) to give the title compound (400 mg, yield 67%).

reactant | N-(2-methylthiazol-5-yl)acetamide | 2.6 mmol, 0.4 g | CC=1SC(=CN1)NC(C)=O | C6H8N2OS
reactant | Br2 | 2.8 mmol, 0.15 mL | BrBr | Br2
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | NaHSO3 | OS(=O)[O-].[Na+]
product | N-(4-bromo-2-methylthiazol-5-yl)acetamide | 400 mg, yield 67% | BrC=1N=C(SC1NC(C)=O)C | C6H7BrN2OS
